US03994937
200 mg. of natural 17β-acetoxy-18-methyl-17α-ethinyl-15α,16α-methylene-4-estren-3-one is mixed in 20 ml. of absolute tetrahydrofuran with 670 mg. of lithium tri-tert.-butoxyalanate and agitated for 1 hour at room temperature. The mixture is then worked up analogously to Example 17. After chromatography on silica gel, 160 mg. of natural 3β-hydroxy-17β-acetoxy-18-methyl-17α-ethinyl-15α,16α-methylene-4-estrene is obtained.

reactant | 17β-acetoxy-18-methyl-17α-ethinyl-15α,16α-methylene-4-estren-3-one | C(C)(=O)O[C@@]1([C@]2(CC)[C@@H]([C@@H]3[C@H]1C3)[C@@H]3CCC1=CC(CC[C@@H]1[C@H]3CC2)=O)C#C | C24H30O3
reactant | lithium | [Li] | Li
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3β-hydroxy-17β-acetoxy-18-methyl-17α-ethinyl-15α,16α-methylene-4-estrene | O[C@@H]1C=C2CC[C@H]3[C@@H]4[C@@H]5[C@H]([C@]([C@@]4(CC)CC[C@@H]3[C@H]2CC1)(C#C)OC(C)=O)C5 | C24H32O3
